US04861795
A solution of 8.8 g (0.019 mole) of ethyl 5-benzyloxy-3-(2-piperidinoethoxy)-2-naphthoate hydrochloride in 240 cc ethanol was treated with 1.0 g of 10 percent palladium on carbon and hydrogenated at room temperature. The reaction mixture was filtered and the solvent removed in vacuo. The residue, weighing 7.5 g on recrystallization from acetonitrile furnished ethyl 5-hydroxy-3-(2-piperidinoethoxy)-2-naphthoatehydrochloride, m.p. 153° C.-6° C. in 61 percent yield (4.4 g).

reactant | ethyl 5-benzyloxy-3-(2-piperidinoethoxy)-2-naphthoate hydrochloride | 0.019 mole, 8.8 g | Cl.C(C1=CC=CC=C1)OC1=C2C=C(C(=CC2=CC=C1)C(=O)OCC)OCCN1CCCCC1
solvent | ethanol | 240 cc | C(C)O | C2H6O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | ethyl 5-hydroxy-3-(2-piperidinoethoxy)-2-naphthoatehydrochloride | 61 percent yield | Cl.OC1=C2C=C(C(=CC2=CC=C1)C(=O)OCC)OCCN1CCCCC1 | InChI=1S/C20H25NO4.ClH/c1-2-24-20(23)17-13-15-7-6-8-18(22)16(15)14-19(17)25-12-11-21-9-4-3-5-10-21;/h6-8,13-14,22H,2-5,9-12H2,1H3;1H
